US09112154B2
Under an inert gas atmosphere, 2-bromopyridine and 1.2 equivalents of 3-bromophenylboric acid were subjected to the Suzuki coupling (catalyst: tetrakis(triphenylphosphine)palladium(0), base: 2M sodium carbonate aqueous solution, solvent: ethanol, toluene), to obtain 2-(3′-bromophenyl)pyridine represented by the following formula:

reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | 3-bromophenylboric acid | 1.2 equivalents | BrC=1C=C(C=CC1)OB(O)O | C6H6BBrO3
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(3′-bromophenyl)pyridine | BrC=1C=C(C=CC1)C1=NC=CC=C1 | C11H8BrN
